US07148226B2
6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-3-(2-pyridin-2-yl-ethylsulfanyl)-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example F(7), Step 6, substituting 3-chloro-6-[2-(3-chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione (0.201 g, 0.52 mmol, described below) in place of 3-chloro-6-cyclopentyl-6-[4-(3-hydroxy-phenyl)-but-3-ynyl]-dihydro-pyran-2,4-dione, and 2-Pyridin-2-yl-ethanethiol in place of 2-mercaptothiazole.

reactant | 3-chloro-6-[2-(3-chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | 0.52 mmol, 0.201 g | ClC1C(OC(CC1=O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C19H22Cl2O4
reactant | 2-Pyridin-2-yl-ethanethiol | N1=C(C=CC=C1)CCS | C7H9NS
product | 6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-3-(2-pyridin-2-yl-ethylsulfanyl)-5,6-dihydro-pyran-2-one | 5% yield | ClC=1C=C(C=CC1OC)CCC1(CC(=C(C(O1)=O)SCCC1=NC=CC=C1)O)C1CCCC1 | C26H30ClNO4S
